US08871782B2
A mixture of tert-butyl 4-{[7-(benzyloxy)-3-nitroquinolin-4-yl]amino}butylcarbamate (30.0 g, 64.3 mmol) and 5% platinum on carbon (3.0 g) in toluene (675 mL) and 2-propanol (100 mL) was hydrogenated on a Parr apparatus for 12.5 hours at 24 psi (1.7×105 Pa). The mixture was filtered through CELFTE filter agent, which was rinsed afterwards with 1:1 toluene/2-propanol and 2-propanol. The combined filtrates were concentrated under reduced pressure to afford 28 g of tert-butyl 4-{[3-amino-7-(benzyloxy)quinolin-4-yl]amino}butylcarbamate as a viscous black oil that was used in the next step without purification.

reactant | tert-butyl 4-{[7-(benzyloxy)-3-nitroquinolin-4-yl]amino}butylcarbamate | 64.3 mmol, 30.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O | C25H30N4O5
catalyst | platinum on carbon | 3.0 g | [Pt] | Pt
solvent | toluene | 675 mL | C1(=CC=CC=C1)C | C7H8
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
product | tert-butyl 4-{[3-amino-7-(benzyloxy)quinolin-4-yl]amino}butylcarbamate | 28 g | NC=1C=NC2=CC(=CC=C2C1NCCCCNC(OC(C)(C)C)=O)OCC1=CC=CC=C1 | C25H32N4O3
